US08629167B2
4-(5-((1R,2S)-1-(3-Chloro-4-cyano-2-methylphenylamino)-2-hydroxypropyl)-1,3,4-oxadiazol-2-yl)phenyl sulfamate
To a pre-cooled (0° C.) solution of 4-(5-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl sulfamate (190 mg, 0.422 mmol) in THF (20 mL) was added TBAF (0.63 mL, 0.63 mmol, 1 M solution in THF) dropwise. The mixture was allowed to warm to room temperature and stirred for two hours, whereupon, concentration under reduced pressure furnished a yellow oil (195 mg). The resulting residue was taken up in EtOAc (60 mL) and washed with H2O (20 mL). The biphasic mixture was separated and the aqueous layer extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (20 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a yellow oil, which was purified by flash chromatography over silica gel [Dichloromethane-Methanol (7:1) as eluent] to provide the title compound as a white solid (0.032 g, 16%). The resulting solid was diluted with CH2Cl2 (30 mL) and hexanes (70 mL) was added. Upon concentration of the suspension a white solid was provided (1.02 g, 35%). 1H NMR (400 MHz, Acetone d6, δ in ppm) 8.2 (d, J=8.8 Hz, 2 H), 7.99 (d, J=9 Hz, 2H), 7.47 (d, J=9 Hz, 1H), 6.86 (d, J=9 Hz, 1 H), 5.64 (d, J=8 Hz, 1 H), 5.18-5.15 (m, 1 H), 4.81 (br s, 1 H), 4.63 (br s, 1 H), 2.40 (s, 3 H), 1.40 (d, J=7 Hz, 3 H).

reactant | 4-(5-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl sulfamate | 0.422 mmol, 190 mg | S(N)(OC1=CC=C(C=C1)C=1OC(=NN1)[C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C=C1)C#N)Cl)C)(=O)=O | C25H32ClN5O5SSi
reactant | TBAF | 0.63 mmol, 1 M, 0.63 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(5-((1R,2S)-1-(3-Chloro-4-cyano-2-methylphenylamino)-2-hydroxypropyl)-1,3,4-oxadiazol-2-yl)phenyl sulfamate | 195 mg | S(N)(OC1=CC=C(C=C1)C=1OC(=NN1)[C@@H]([C@H](C)O)NC1=C(C(=C(C=C1)C#N)Cl)C)(=O)=O | C19H18ClN5O5S
